US05541195
(2R*,4S*)-2-Benzyl-1-(4-pyridylacetyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 4 with 98 mg (0.561 mmol) of 4-pyridylacetic acid hydrochloride, 143 mg (0.562 mmol) of bis-(2-oxo-3-oxazolidinyl)phosphinic chloride and 209 μl (1.50 mmol) of triethylamine. The title compound is obtained as white foam. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.56, FD-MS: M+ =546.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | 4-pyridylacetic acid hydrochloride | 0.561 mmol, 98 mg | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | bis-(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.562 mmol, 143 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 1.50 mmol, 209 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-(4-pyridylacetyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(CC1=CC=NC=C1)=O | C31H29F3N4O2
